US06235787B1
A solution of 0.33 g of 2(R)-[1(S)-[(benzyloxy)carbamoyl]-4-(3-pyridyl)butyl]-2′-isobutyl-2′-(methanesulphonyl)-4-methylvalerohydrazide in 10 ml of methanol was hydrogenated in the presence of 80 mg of 10% palladium-on-carbon for 1.5 hours. The catalyst was removed by filtration and the solvent was evaporated. The residue was triturated with diethyl ether to give 0.26 g of 2(R)-[1(S)-(hydroxycarbamoyl)-4-(3-pyridyl)butyl]-2′-isobutyl-2′-(methanesulphonyl)-4-methylvalerohydrazide in the form of a white solid.

reactant | 2(R)-[1(S)-[(benzyloxy)carbamoyl]-4-(3-pyridyl)butyl]-2′-isobutyl-2′-(methanesulphonyl)-4-methylvalerohydrazide | 0.33 g | C(C1=CC=CC=C1)ONC(=O)[C@@H](CCCC=1C=NC=CC1)[C@H](C(=O)NN(S(=O)(=O)C)CC(C)C)CC(C)C | C28H42N4O5S
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium-on-carbon | 80 mg | [Pd] | Pd
product | 2(R)-[1(S)-(hydroxycarbamoyl)-4-(3-pyridyl)butyl]-2′-isobutyl-2′-(methanesulphonyl)-4-methylvalerohydrazide | 0.26 g | ONC(=O)[C@@H](CCCC=1C=NC=CC1)[C@H](C(=O)NN(S(=O)(=O)C)CC(C)C)CC(C)C | C21H36N4O5S
